Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ year old woman with history of mild AS ___
1.2-1.9 ___ w/ EF 55%, mild MR, HTN, HLD, DM and previous
smoking history followed by Dr. ___ presents with 3
episodes of chest pressure/tightness at rest over the last 24
hours. She first had an episode of chest pain on ___
which lasted approximately 20 minutes. On ___, she had 2
episodes of chest pain, each approximately 20 minutes long,
radiating across the chest, associated with some nausea, but no
vomiting or diaphoresis. She has not had any changes in her
baseline exertional dyspnea. She has not had any leg swelling or
other complaints. Patient was seen at ___ where
cardiology recommended referral to ___ for TTE. 

 On evaluation patient notes exertional SOB but denies chest 
pain
with exertion. Patient notes that she has a hx of GERD which is
well -controlled w/ her omeprazole and this chest tightness is
different than her burning GERD pain in the past. Denies leg
swelling, PND, orthopnea, or recent illness. Denies any
pre-syncope or syncope but endorses a hx of vasovagal syncope.
  

 
Past Medical History:
- HTN
- HLD
- Moderate aortic stenosis
- Gout
- Anemia
- Arrhythmia
- Pancreatitis
- Claustrophobia
- Chronic kidney disease
- Mitral insufficiency ___ rheumatic fever
- Dyspnea on exertion
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
GENERAL: Well developed, well nourished. Appears younger than
stated age. NAD. Oriented x3. Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: Supple. JVP not visible above clavicle when sitting at 90
degrees.  
CARDIAC: Regular rate and rhythm. Normal S1, S2. ___
crescendo-decrescendo murmur. No rubs, or gallops. No thrills or
lifts.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.  

DISCHARGE PHYSICAL EXAM:  
=========================
VS: Temp: 98.3 (Tm 98.6), BP: 151/76 (101-151/54-76), HR: 71
(66-71), RR: 18 (___), O2 sat: 97% (96-100), O2 delivery: RA
GENERAL: Well developed, well nourished. Appears younger than
stated age. NAD. Oriented x3. Mood, affect appropriate.  
HEENT: Sclera anicteric, MMM
NECK: Supple. JVP not visible above clavicle when sitting at 90
degrees.  
CARDIAC: Regular rate and rhythm. Normal S1, S2. ___ harsh
crescendo-decrescendo murmur. No rubs, or gallops. No thrills or
lifts.  
LUNGS: CTABL, nl WOB
ABDOMEN: Soft, non-tender, non-distended. 
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
PULSES: Distal pulses palpable and symmetric.  

 
Pertinent Results:
ADMISSION LABS
===============
___ 06:10AM BLOOD WBC-5.6 RBC-3.59* Hgb-10.6* Hct-31.7* 
MCV-88 MCH-29.5 MCHC-33.4 RDW-11.5 RDWSD-37.0 Plt ___
___ 06:10AM BLOOD ___ PTT-26.9 ___
___ 10:20AM BLOOD Glucose-252* UreaN-36* Creat-1.7* Na-132* 
K-4.8 Cl-95* HCO3-20* AnGap-17
___ 06:10AM BLOOD Calcium-9.4 Phos-3.6 Mg-1.6

___ 09:15PM URINE Hours-RANDOM Creat-63 Na-58 K-34
___ 09:15PM URINE Osmolal-363

CARDIAC ENZYMES
================
___ 03:30AM BLOOD cTropnT-<0.01
___ 10:20AM BLOOD cTropnT-<0.01
___ 06:10AM BLOOD cTropnT-<0.01

DISCHARGE LABS
==============
___ 07:29AM BLOOD WBC-6.0 RBC-3.89* Hgb-11.7 Hct-34.0 
MCV-87 MCH-30.1 MCHC-34.4 RDW-11.5 RDWSD-36.7 Plt ___
___ 07:29AM BLOOD Glucose-92 UreaN-31* Creat-1.4* Na-132* 
K-4.9 Cl-95* HCO3-21* AnGap-16
___ 07:29AM BLOOD Calcium-9.4 Phos-3.5 Mg-2.2

IMAGING AND STUDIES
===================
___ ECHO (TTE)
The left atrial volume index is normal. There is mild symmetric 
left ventricular hypertrophy with normal cavity size and global 
systolic function. Due to suboptimal technical quality, a focal 
wall motion abnormality cannot be fully excluded. Quantitative 
(biplane) LVEF = 69 %. The estimated cardiac index is normal 
(>=2.5L/min/m2). Tissue Doppler imaging suggests an increased 
left ventricular filling pressure (PCWP>18mmHg). Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve leaflets are moderately thickened. There is 
moderate aortic valve stenosis (valve area 1.0-1.2cm2). Mild 
(1+) aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. Trivial mitral regurgitation is seen. The 
estimated pulmonary artery systolic pressure is normal. 
Significant pulmonic regurgitation is seen. 

IMPRESSION: Suboptimal image quality. Moderate aortic valve 
stenosis. Mild aortic regurgitation. Mild symmetric left 
ventricular hypertrophy with preserved regional and global 
biventricular systolic function. Increased PCWP. 

Compared with the prior study (images reviewed) of ___, 
the aortic valve gradient is slightly higher with similar 
calculated aortic valve area. 

 
Brief Hospital Course:
PATIENT SUMMARY
================
___ year old woman with history of moderate aortic stenosis with 
EF 55%, mild mitral regurgitation, hypertension, hyperlipidemia, 
who presents with chest pressure and tightness at rest, admitted 
for evaluation of unstable angina. 

ACUTE ISSUES
============
#Unstable angina
Patient with chest pain at rest, however no EKG changes and 
negative troponins x3, most consistent with stable angina. Given 
her known aortic stenosis, ECHO was performed to rule out 
structural changes. Aortic stenosis was largely unchanged, and 
next step in workup was nuclear stress test. Patient was 
hemodynamically stable and without chest pain or concerning 
telemetry findings, and requested to have this done as 
outpatient. One was scheduled for her in ___ on ___, in 
three days. Home medications, including metoprolol, aspirin, and 
simvastatin were continued. Lisinopril was held as below, then 
restarted. 

___ on CKD Stage III
CKD due to microvascular disease and chronic gout. Baseline Cr 
1.4, was up to 1.7 on presentation. Likely pre-renal, has 
improved and patient w hypertensive reading, so restarted home 
lisinopril 40mg. Encouraged patient to take in PO fluids and 
solutes to augment hydration status. 

#Hyponatremia
Unclear etiology, Na was 132-133 consistently during admission. 
Urine electrolytes were checked and were not consistent with 
pre-renal etiology (FENa is 1.2%, Cr 63, Na 58, K 34, Osm 363). 
Patient not on diuretics and appeared hypovolemic to euvolemic 
throughout hospitalization. Should be follow-up outpatient and 
further work-up if persistent. 

CHRONIC ISSUES
==============
#Hypertension: Held lisinopril initially given ___, restarted 
prior to discharge. 
#Gout: Continued with feboxostat. 
#GERD: Continued with home omeprazole. 

TRANSITIONAL ISSUES
==================
[ ] Follow-up outpatient stress test, further work-up and 
management pending these results
[ ] Repeat BMP on ___ while at ___ for stress test to 
evaluate serum Na levels (order placed in OMR for outpatient 
labs)
[ ] Hyponatremia-unclear etiology, new for this patient, further 
work-up pending labs that will be checked outpatient ___.
[ ] Patient given prescription for Zofran for nausea, which she 
was experiencing in hospital. Unclear etiology, if she continues 
to require Zofran and/or is having nausea, please initiate 
further work-up. 

# DISCHARGE WEIGHT: 60.1 kg (132.5 lb) 
# DISCHARGE CREATININE: 1.4
# CODE STATUS: full code
# CONTACT/HCP: ___ (husband) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Febuxostat 40 mg PO DAILY 
2. Simvastatin 80 mg PO QPM 
3. Lisinopril 40 mg PO DAILY 
4. Metoprolol Succinate XL 25 mg PO DAILY 
5. Vitamin D ___ UNIT PO 1X/4 WEEKS 
6. Omeprazole 40 mg PO DAILY 
7. Aspirin 81 mg PO QHS 

 
Discharge Medications:
1.  Ondansetron 4 mg PO ONCE MR1 Duration: 1 Dose 
RX *ondansetron 4 mg 1 tablet(s) by mouth every 8 hours as 
needed for nausea Disp #*4 Tablet Refills:*0 
2.  Aspirin 81 mg PO QHS  
3.  Febuxostat 40 mg PO DAILY  
4.  Lisinopril 40 mg PO DAILY  
5.  Metoprolol Succinate XL 25 mg PO DAILY  
6.  Omeprazole 40 mg PO DAILY  
7.  Simvastatin 80 mg PO QPM  
8.  Vitamin D ___ UNIT PO 1X/4 WEEKS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses:
-Unstable angina
-Acute kidney injury on chronic kidney disease
-Hyponatremia 

Secondary Diagnoses:
-Hypertension
-Gout
-GERD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure being involved in your care. 

Why you were admitted to the hospital:
======================================
You were admitted to the hospital because you were having chest 
pain. 

What happened in the hospital:
==============================
- You had a cardiac ultrasound (also called an "echo") which did 
not show any significant changes to your aortic valve or other 
parts of your heart structure. 
- We arranged for a stress test to be done outpatient as you 
were stable and wanted to return home rather than wait in the 
hospital. 
- Your blood levels of sodium were a little bit low, we want to 
continue monitoring this after you leave the hospital. 

What you should do when you leave the hospital:
===============================================
- Take all of your medications as described below. 
- Attend all of your follow-up appointments as described below. 
- Have labs done at ___ lab on ___ (when you 
go for your stress test), there is already an order in their 
computer system for you to have these drawn, you just need to 
show up there. 
- We gave you some Zofran for nausea - as we are not sure what 
the cause of your nausea is, if you continue to have it please 
bring this up with your primary care doctor. 

We wish you the best!
Your ___ Team 
 
Followup Instructions:
___